US05866594
Synthesis of methyl 3-(methoxyiminomethyl)-4,7-dimethylindole-2-carboxylate (compound 48)
A mixture of 0.8 g (3.25 mmol) of methyl 3-(hydroxyiminomethyl)-4,7-dimethylindole-2-carboxylate, 0.60 g (4.23 mmol) of methyl iodide, 0.59 g (4.23 mmol) of potassium carbonate and 20 ml of acetonitrile was refluxed for 19 hours. After potassium carbonate was removed by filtration, acetonitrile was distilled off under reduced pressure. The residue was dissolved in ethyl acetate, washed with water three times and dried over anhydrous magnesium sulfate. The crude crystals were purified by silica gel column chromatography to provide 210 mg of light yellow crystals. Yield: 25%

reactant | methyl 3-(hydroxyiminomethyl)-4,7-dimethylindole-2-carboxylate | 3.25 mmol, 0.8 g | ON=CC1=C(NC2=C(C=CC(=C12)C)C)C(=O)OC | C13H14N2O3
reactant | methyl iodide | 4.23 mmol, 0.60 g | CI | CH3I
reactant | potassium carbonate | 4.23 mmol, 0.59 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | methyl 3-(methoxyiminomethyl)-4,7-dimethylindole-2-carboxylate | 210 mg, Yield: 25% | CON=CC1=C(NC2=C(C=CC(=C12)C)C)C(=O)OC | C14H16N2O3
